US05059692
Methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate (compound 1)
To a solution of 17.5 g of methyl 2-cyanomethyl benzoate and 16.2 g of phenyl isothiocyanate in 300 ml of tetrahydrofuran was added 4.8 g of a 60% sodium hydride for 20 minutes under an ice-cooling in a stream of nitrogen, and the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added 18.4 g of methyl bromoacetate for 15 minutes, and then the mixture was stirred for 1 hour. To the reaction mixture was added 4.8 g of a 60% sodium hydride, and the mixture was stirred for 14 hours. The reaction mixture was poured into 3 l of water, and the precipitates were collected by a filtration. The precipitates were successively washed with water and acetone, and air-dried, and dried over phosphorus pentaoxide to obtain 25.3 g of the desired product as brown crystals.

reactant | phenyl isothiocyanate | 16.2 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | sodium hydride | [H-].[Na+]
reactant | methyl bromoacetate | 18.4 g | BrCC(=O)OC | C3H5BrO2
reactant | water | 3 l | O | H2O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate | 25.3 g | NC1=C(SC=2N(C(C=3C=CC=CC3C21)=O)C2=CC=CC=C2)C(=O)OC | C19H14N2O3S
